US07138425B2
b) 2-(3-Nitro-6-fluorophenyl)-4-methylbenzoxazole
Prepared by the method of Example 15b), from N-(2-hydroxy-6-methylphenyl)-2-fluoro-5-nitrobenzamide (667 mg, 2.3 mmol) and p-toluenesulfonic acid monohydrate (961 g, 5.1 mmol) the subtitle compound was obtained (327 mg, 52%). 1H NMR (DMSO) δ 8.92(m, 1H), 8.50(m, 1H), 7.82–7.74(m, 2H), 7.70(s, 1H), 7.33(dd, 1H).

reactant | N-(2-hydroxy-6-methylphenyl)-2-fluoro-5-nitrobenzamide | 2.3 mmol, 667 mg | OC1=C(C(=CC=C1)C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C14H11FN2O4
reactant | p-toluenesulfonic acid monohydrate | 5.1 mmol, 961 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-6-fluorophenyl)-4-methylbenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C(=CC=C2)C | C14H9FN2O3
